US07582638B2
Add (2-fluoro-phenyl)-piperazin-1-yl-methanone (3.16 g, 12.9 mmol) and K2CO3 (8.9 g, 64.5 mmol) to 1-chloro-4-nitroisoquinoline (2.85 g, 13.7 mmol) in acetonitrile (100 mL) and stir for 24 hours. Filter the insoluble solid and wash the cake with AcOEt. Evaporate the solvent under reduced pressure to give a residue. Subject residue to silica gel chromatography eluting with hexane:AcOEt 20-90% to give 3.72 g of (2-fluoro-phenyl)-[4-(4-nitro-isoquinolin-1-yl)-piperazin-1-yl]-methanone as a solid. LCMS ES+(m/z) 381.2 [M+H].

reactant | (2-fluoro-phenyl)-piperazin-1-yl-methanone | 12.9 mmol, 3.16 g | FC1=C(C=CC=C1)C(=O)N1CCNCC1 | C11H13FN2O
reactant | K2CO3 | 64.5 mmol, 8.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloro-4-nitroisoquinoline | 13.7 mmol, 2.85 g | ClC1=NC=C(C2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (2-fluoro-phenyl)-[4-(4-nitro-isoquinolin-1-yl)-piperazin-1-yl]-methanone | 3.72 g | FC1=C(C=CC=C1)C(=O)N1CCN(CC1)C1=NC=C(C2=CC=CC=C12)[N+](=O)[O-] | C20H17FN4O3
